US04036864
iv. 14α-Fluoroandrost-4-ene-3, 17-dione
A solution of 14α-fluoro -3β-hydroxyandrost-5(6)-en-17 -one (93 mg), prepared as described in (i) above, in acetone (20 ml) was treated with Jones reagent (0.10 ml) at 0°-5° for 5 min. Excess Jones reagent was destroyed by the addition of isopropanol (0.2 ml) and water (5 ml) was added. The organic solvents were then evaporated off in vacuo and the aqueous residue was extracted with chloroform. The chloroform was evaporated in vacuo and the thus-obtained residue dissolved in warm methanol (10 ml). The resulting solution was treated with one drop of 2N aqueous sodium hydroxide and warmed on a steam bath for 5 min. The orange solution so obtained was neutralized with acetic acid, water was added, and the organic solvents were evaporated of in vacuo. The residue was extracted with chloroform, and the solution was washed with sodium bicarbonate and water, and then dried. Evaporation of the chloroform in vacuo gave a solid (92 mg) which was chromatographed by p.l.c. (silica gel) eluting with ethyl acetate: hexane (1:1). Recovery of the major band gave the title compound (68 mg), which crystallised from acetone as prisms (58 mg) m.p. 216°-217°; [α]D24 + 181° (c 0.69, CHCl3); λmax (ethanol) 239 nm (ε 12,900); νmax 1740, 1660 and 1615 cm-1 ; the PMR spectrum included signals at δ1.05 (3H, s, 18-Me), 1.22 (3H, s,19-Me) and 5.8 (1H, s, 4-H); FMR φ* + 164.5 ppm (broad multiplet ca 90 Hz wide). (Found: C, 74.82; H, 8.23; F, 6.30, C19H25O2F requires C,74.97; H,8.28; F,6.24%).

reactant | 14α-fluoro -3β-hydroxyandrost-5(6)-en-17 -one | 93 mg | F[C@@]12CCC([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](CC3=CC[C@@H]21)O)C)=O | C19H27FO2
reactant | Jones reagent | 0.10 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 14α-Fluoroandrost-4-ene-3, 17-dione | 92 mg | F[C@@]12CCC([C@@]1(C)CC[C@@H]1[C@]3(CCC(C=C3CC[C@@H]21)=O)C)=O | C19H25FO2
